US07820670B2
Step A: tert-Butyl 3-(3-bromoimidazo[1,2-b]pyridazin-6-ylamino)propylcarbamate
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and tert-butyl 3-aminopropylcarbamate according to general procedure 1 providing the intermediate (300 mg, 63%) as a yellow oil: Rf=0.65 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CDCl3) δ 7.56 (d, J=9.6 Hz, 1H), 7.46 (s, 1H), 6.46 (d, J=9.6 Hz, 1H), 5.13-5.10 (m, 2H), 3.53 (quart, J=6.2 Hz, 2H), 3.27-3.23 (m, 2H), 1.84-1.79 (m, 2H), 1.46 (s, 9H); ES-MS: (M+H)=370, 372 m/z.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | tert-butyl 3-aminopropylcarbamate | NCCCNC(OC(C)(C)C)=O | C8H18N2O2
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | tert-Butyl 3-(3-bromoimidazo[1,2-b]pyridazin-6-ylamino)propylcarbamate | BrC1=CN=C2N1N=C(C=C2)NCCCNC(OC(C)(C)C)=O | C14H20BrN5O2
